* Z:\home\bhargava\ddp\SPICE\diffamp_Prasad.asc
M3 out1neg cmfb1 0 0 CMOSN l=0.24u w=2u
M1 out1neg inpositive N001 N001 CMOSP l=0.24u w=32u
M0 N001 umirror Vdd Vdd CMOSP l=0.24u w=64u
M2 out1pos innegative N001 N001 CMOSP l=0.24u w=32u
M4 out1pos cmfb1 0 0 CMOSN l=0.24u w=2u
M5 umirror umirror Vdd Vdd CMOSP l=0.24u w=6.4u
I1 umirror 0 10µ
V4 Vdd 0 1.8
C2 cmfb1 out1neg 1p
C4 out1pos cmfb1 1p
Mc1 N009 out1pos N007 N007 CMOSP l=0.24u w=3.2u
M6 N009 out1neg N007 N007 CMOSP l=0.24u w=3.2u
Mc2 cmfb1 N008 N007 N007 CMOSP l=0.24u w=6.4u
Mc3 N009 N009 0 0 CMOSN l=0.24u w=0.4u
Mc4 cmfb1 N009 0 0 CMOSN l=0.24u w=0.4u
Mc5 N007 umirror Vdd Vdd CMOSP l=0.24u w=12.8u
Vcmref1 N008 0 0.63
M7 Vop out1neg 0 0 CMOSN l=0.24u w=4u
M8 Vop cfmb2 Vdd Vdd CMOSP l=0.24u w=16u
M9 Vom out1pos 0 0 CMOSN l=0.24u w=4u
M10 Vom cfmb2 Vdd Vdd CMOSP l=0.24u w=16u
C1 N003 Vop 7p
R1 out1neg N003 1k
C3 N004 Vom 7p
R2 out1pos N004 1k
M11 N005 cmfb1 0 0 CMOSN l=0.24u w=4u
M12 N002 N006 N005 N005 CMOSN l=0.24u w=2u
M13 cfmb2 Vbias N005 N005 CMOSN l=0.24u w=2u
M14 N002 N002 Vdd Vdd CMOSP l=0.24u w=8u
M15 cfmb2 N002 Vdd Vdd CMOSP l=0.24u w=8u
V1 Vbias 0 0.9
R3 Vom N006 100k
R4 N006 Vop 100k
C5 Vom N006 1p
C6 N006 Vop 1p
C9 cfmb2 Vop 1p
C10 Vom cfmb2 1p
C7 Vop 0 5p
C8 Vom 0 5p
R5 Vop 0 5K
R6 Vom 0 5K
V2 P001 0 PULSE(0 -0.4 2us 1ns 1ns 50us 100us)
V3 P002 0 PULSE(0 0.4 2us 1ns 1ns 50us 100us)
C11 inpositive P002 1
C12 innegative P001 1
R7 innegative Vbias 10G
R8 inpositive Vbias 10G
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Program Files\LTC\LTspiceIV\lib\cmp\standard.mos
.INCLUDE tsmc018.lib
;.INCLUDE opamp.sub
.tran 0 50us 0
;op
.backanno
.end
